US06927292B2
C. (7R,8R,9R)-10-Acetyl-7-hydroxy-2,3-dimethyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine
165 g of (8R,9R)-10-acetyl-2,3-dimethyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h]-[1,7]naphthyridin-7-one are suspended in 2.0 l of isopropanol with mechanical stirring. 47.8 g of sodium cyanoborohydride are then introduced with ice cooling. After addition of 20 drops of Methyl Orange, methanolic hydrogen chloride solution is slowly added dropwise until the color change to red persists (approximately 150 ml, 1 h, warming of the reaction mixture to 16° C.). After a further 20 min, the mixture is added to 1.5 l of ice water and 1 l of dichloromethane and neutralized with ammonia solution (25%). The organic phase is separated off and the aqueous phase is extracted with 250 ml of dichloromethane. The combined organic phases are reextracted with water (3×1.5 l), dried over sodium sulfate and evaporated on a rotary evaporator. Coevaporation with acetone (3×) and drying of the residue in a high vacuum yields 160 g (90%) of the title compound as a colorless foam of m.p. 103-105° C., which is used without further purification in the next stage.

reactant | (8R,9R)-10-acetyl-2,3-dimethyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h]-[1,7]naphthyridin-7-one | 165 g | C(C)(=O)N1[C@@H]([C@H](C(C=2C=CN3C(C12)=NC(=C3C)C)=O)OC(C(C)(C)C)=O)C3=CC=CC=C3 | C25H27N3O4
reactant | sodium cyanoborohydride | 47.8 g | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | ammonia | N | H3N
solvent | isopropanol | 2.0 l | C(C)(C)O | C3H8O
catalyst | Methyl Orange | 20 drops | CN(C)C=1C=CC(=CC1)N=NC=2C=CC(=CC2)S(=O)(=O)O | C14H15N3O3S
solvent | dichloromethane | 1 l | ClCCl | CH2Cl2
product | (7R,8R,9R)-10-Acetyl-7-hydroxy-2,3-dimethyl-9-phenyl-8-pivaloyloxy-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridine | 160 g, 90% | C(C)(=O)N1[C@@H]([C@H]([C@@H](C=2C=CN3C(C12)=NC(=C3C)C)O)OC(C(C)(C)C)=O)C3=CC=CC=C3 | C25H29N3O4
